US07932272B2
4-(Pyridin-2-ylmethoxy)-benzylamine
To a solution of 4(pyridine-2-ylmethoxy)-benzonitrile described in Preparation Example 170 (1.2 g, 5.70 mmol) in tetrahydrofuran (30 mL) was added lithium aluminum hydride (0.22 g, 5.80 mmol), and the solution was stirred for 2 hours 30 minutes at room temperature. Ice water was added to the reaction solution, which was then stirred for 30 minutes. This mixture was filtered through Celite pad, and washed with ethyl acetate. The filtrate was partitioned, this organic layer was dried over anhydrous magnesium sulfate, then, concentrated, and the title compound (1.1 g, 5.13 mmol, 90%) was obtained.

reactant | 4(pyridine-2-ylmethoxy)-benzonitrile | N1=C(C=CC=C1)COC1=CC=C(C#N)C=C1 | C13H10N2O
reactant | lithium aluminum hydride | 5.80 mmol, 0.22 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(Pyridin-2-ylmethoxy)-benzylamine | 5.13 mmol, 1.1 g, 90% | N1=C(C=CC=C1)COC1=CC=C(CN)C=C1 | C13H14N2O
